US08003662B2
Step D: Preparation of 2-(3-fluoro-4-(2-(piperidin-4-yl)thieno[3,2-b]pyridin-7-yloxy)phenylamino)-N-(4-fluorophenyl)nicotinamide:
A round-bottomed flask was charged with tert-butyl 4-(7-(4-(3-((4-fluorophenyl)carbamoyl)pyridin-2-ylamino)-2-fluorophenoxy)thieno[3,2-b]pyridin-2-yl)piperidine-1-carboxylate (60 mg, 0.091 mmol) and TFA (3 mL). After stirring at room temperature for 4 hours, the mixture was concentrated under high vacuum and aqueous 1M Na2CO3 (5 mL) was added with stirring. The mixture was then extracted with EtOAc (10 mL) and the organics were isolated and dried over sodium sulfate, filtered and concentrated to get product (49 mg, 96%) as a yellow solid. LRMS (esi+) 558 m/z (M+1) detected.

reactant | tert-butyl 4-(7-(4-(3-((4-fluorophenyl)carbamoyl)pyridin-2-ylamino)-2-fluorophenoxy)thieno[3,2-b]pyridin-2-yl)piperidine-1-carboxylate | 0.091 mmol, 60 mg | FC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)NC1=CC(=C(OC2=C3C(=NC=C2)C=C(S3)C3CCN(CC3)C(=O)OC(C)(C)C)C=C1)F | C35H33F2N5O4S
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(3-fluoro-4-(2-(piperidin-4-yl)thieno[3,2-b]pyridin-7-yloxy)phenylamino)-N-(4-fluorophenyl)nicotinamide | 49 mg, 96% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C2CCNCC2)NC2=C(C(=O)NC1=CC=C(C=C1)F)C=CC=N2 | C30H25F2N5O2S
